* NDP605AE ELECTRICAL MODEL (TO-220 N-Ch DMOS)
* -------------------------
.SUBCKT  NDP605AE  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={3.4*{-0.00264*TEMP+1.066}}  KP={-0.03*TEMP+20.25}
+  THETA=0.056  VMAX=1.4E5  LEVEL=3)
Cgs     1    3    1154p
Rd     20    4    2.65m TC=0.0065
Dds     3    4    DDS
.MODEL     DDS    D(BV={50*{0.00088*TEMP+0.978}}   M=0.377  CJO=1083p   VJ=1.22)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=37.9m   TT=55n)
Ra      4    2    8.33m TC=0.0065
Rs      3    5    1.37m
Ls      5    30   5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    2100p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=2653p   VJ=0.193)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS NDP605AE
*
.SUBCKT   605THMAL   50  40  100

Rop       50   60   1meg                         ; From input power, use ideal
Cop       60   70   1u   IC=0                    ; opamp to get energy W(t),
E_W       40   70   40   60  1meg                ; assume Rin=infinite & Ro=0

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)} ; Get average power by W(t)/t
R80       80   40   1k

E_Tjc    100   40   VALUE={V(80,40)*1.5*V(90,40)}; Tjc=Pave(t)*RJC*rjc(t)
R100     100   40   1k

R90       90   40   1k
E_rjc     90   40    table {TIME}                ; Normalized NDx605x Single Pulsed rjc(t)
+ (1e-005, 0.0156008)
+ (1.5e-005, 0.019107)
+ (2e-005, 0.0220629)
+ (3e-005, 0.0270214)
+ (4e-005, 0.0312016)
+ (5e-005, 0.0348845)
+ (7e-005, 0.0412759)
+ (0.0001, 0.0493341)
+ (0.00015, 0.0604217)
+ (0.0002, 0.069769)
+ (0.0003, 0.0854492)
+ (0.0004, 0.0986682)
+ (0.0005, 0.110314)
+ (0.0007, 0.130526)
+ (0.001, 0.156008)
+ (0.0015, 0.19107)
+ (0.002, 0.220629)
+ (0.00300068, 0.269488)
+ (0.004, 0.30695)
+ (0.00500875, 0.338816)
+ (0.007, 0.38417)
+ (0.0100302, 0.427714)
+ (0.015, 0.476191)
+ (0.0201171, 0.51115)
+ (0.0302385, 0.557729)
+ (0.0401603, 0.588408)
+ (0.0499347, 0.613516)
+ (0.0701816, 0.651838)
+ (0.0993117, 0.689666)
+ (0.150433,  0.734277)
+ (0.2, 0.766409)
+ (0.3, 0.814672)
+ (0.4, 0.848456)
+ (0.499014, 0.871326)
+ (0.694928, 0.901643)
+ (1, 0.929537)
+ (1.50854, 0.955371)
+ (1.99969, 0.970572)
+ (3.01226, 0.986282)
+ (4, 0.994209)
+ (4.98949, 0.997334)
+ (6.99375, 0.99942)
+ (10.009, 0.99942)
.ENDS 605THMAL
